US07098203B2
Isomer A of 4-((3,5-bis(trifluoromethyl)benzyloxy)methyl)-1-methyl-4-phenylazepane
The mixture of Isomer A of 4-((3,5-bis(trifluoromethyl)benzyloxy)methyl)-4-phenylazepane (3 mg), paraformaldehyde (3 mg) and formic acid (2.2 mg) in chloroform (0.1 mL) was stirred at 65° C. for overnight. After cooling down, the mixture was concentrated under vacuum and filtered through anion exchange cartridge to get rid of formic acid. The crude product was purified by prep TLC with 10% methanol/89% dichloromethane/1% NH4OH to give the product as a clear sticky oil (2 mg, 67% yield).

reactant | 4-((3,5-bis(trifluoromethyl)benzyloxy)methyl)-4-phenylazepane | 3 mg | FC(C=1C=C(COCC2(CCNCCC2)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C22H23F6NO
reactant | paraformaldehyde | 3 mg | C=O | CH2O
reactant | formic acid | 2.2 mg | C(=O)O | CH2O2
solvent | chloroform | 0.1 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-((3,5-bis(trifluoromethyl)benzyloxy)methyl)-1-methyl-4-phenylazepane | 2 mg, 67% yield | FC(C=1C=C(COCC2(CCN(CCC2)C)C2=CC=CC=C2)C=C(C1)C(F)(F)F)(F)F | C23H25F6NO
